US07049438B2
4-(6-chloro-2,3-methylenedioxyanilino)-7-(2-fluoroethoxy)-5-(N-methylpiperidin-4-yloxy)quinazoline
Using an analogous procedure to that described in Example 51, 4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxy-5-(N-methylpiperidin-4-yloxy)quinazoline was reacted with 2-fluoroethanol to give the title compound; NMR Spectrum: (CDCl3) 2.0–2.1 (m, 2H), 2.15–2.3 (m, 2H), 2.35 (s, 3H), 2.3–2.4 (m, 2H), 2.8 (br s, 2H), 4.32 (m, 1H), 4.4 (m, 1H), 4.65 (m, 1H), 4.8 (m, 1H), 4.9 (m, 1H), 6.05 (s, 2H), 6.6 (s, 1H), 6.75 (d, 1H), 6.85 (s, 1H), 7.0 (d, 1H), 8.55 (s, 1H), 9.3 (s, 1H); Mass Spectrum: M+H+ 475 and 477.

reactant | 4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxy-5-(N-methylpiperidin-4-yloxy)quinazoline | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCN(CC1)C)O)OCO2 | C21H21ClN4O4
reactant | 2-fluoroethanol | FCCO | C2H5FO
product | 4-(6-chloro-2,3-methylenedioxyanilino)-7-(2-fluoroethoxy)-5-(N-methylpiperidin-4-yloxy)quinazoline | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCN(CC1)C)OCCF)OCO2 | C23H24ClFN4O4
